US08471005B2
Into a round-bottom flask 2-thioxo-2,3-dihydro-1H-[1,2,4]triazino[1,6-a]indol-4-one (9.25 g, 0.04 mol) and methyl iodide (3.42 mL, 0.0549 mol) were combined in tetrahydrofuran (200 mL). The reaction was stirred at 45° C. for one hour. The solvent was removed under vacuum to give a solid, which was next stirred for 30 minutes with saturated aqueous NaHCO3 (100 mL). The solid was filtered and washed with water, then dried on high vacuum and further by azeotrop distillation with toluene to give 2-methylsulfanyl-3H-[1,2,4]triazino[1,6-a]indol-4-one (7 g, 71%), which was used in the next step without further purification. 1H-NMR (DMSO-d6) δ 12.28 (br s, 1H), 7.87 (d, J=8.4 Hz, 1H), 7.80 (d, J=8.1 Hz, 1H), 7.43 (m, 1H), 7.28 (m, 1H), 7.18 (s, 1H), 2.64 (s, 3H).

reactant | 2-thioxo-2,3-dihydro-1H-[1,2,4]triazino[1,6-a]indol-4-one | 0.04 mol, 9.25 g | S=C1NN2C(=CC3=CC=CC=C23)C(N1)=O | C10H7N3OS
reactant | methyl iodide | 0.0549 mol, 3.42 mL | CI | CH3I
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 2-methylsulfanyl-3H-[1,2,4]triazino[1,6-a]indol-4-one | 7 g, 71% | CSC1=NN2C(=CC3=CC=CC=C23)C(N1)=O | C11H9N3OS
